US08114886B2
4-Methyl-5-[(phenylthio)(2,3,6-trifluorophenyl)methyl]pyridine-2-carbaldehyde
To a solution of 2-bromo-4-methyl-5-[(phenylthio)(2,3,6-trifluorophenyl)meth yl]pyridine (2.00 g, 4.40 mmol) in toluene (40 ml), a hexane solution of n-butyllithium (1.58 M, 3.3 ml, 5.28 mmol) was added in an argon atmosphere at −75° C. The reaction mixture was stirred for 1 hour at −40° C., and then cooled again to −75° C., and N,N-dimethylformamide (0.68 ml, 8.80 mmol) was added. After Completion of dropwise addition, the reaction mixture was allowed to warm to 0° C., and water was added to the same temperature. Ethyl acetate was added to the reaction mixture, the organic layer was separated, and then the organic layer was washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and filtered, and then the filtrate was concentrated under reduced pressure. The resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate was concentrated under reduced pressure to obtain the title compound (1.03 g, 2.76 mmol, 63%) as a pale yellow oily substance.

reactant | 2-bromo-4-methyl-5-[(phenylthio)(2,3,6-trifluorophenyl)meth yl]pyridine | 4.40 mmol, 2.00 g | BrC1=NC=C(C(=C1)C)C(C1=C(C(=CC=C1F)F)F)SC1=CC=CC=C1 | C19H13BrF3NS
reactant | hexane | CCCCCC | C6H14
reactant | n-butyllithium | 5.28 mmol, 1.58 M, 3.3 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 8.80 mmol, 0.68 ml | CN(C=O)C | C3H7NO
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-Methyl-5-[(phenylthio)(2,3,6-trifluorophenyl)methyl]pyridine-2-carbaldehyde | 2.76 mmol, 1.03 g, 63% | CC1=CC(=NC=C1C(C1=C(C(=CC=C1F)F)F)SC1=CC=CC=C1)C=O | C20H14F3NOS
